US07851473B2
N-[4-(Acetylamino)phenyl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl [4-(acetylamino)phenyl]carbamate (200 mg, 0.614 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (150 mg, 0.614 mmol), diisopropylethylamine (0.107 ml, 0.614 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate to obtain the desired product (38.0 mg, 14.7%) as a solid.

reactant | 2,2,2-trichloroethyl [4-(acetylamino)phenyl]carbamate | 0.614 mmol, 200 mg | C(C)(=O)NC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C11H11Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.614 mmol, 150 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.614 mmol, 0.107 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-[4-(Acetylamino)phenyl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 38.0 mg, 14.7% | C(C)(=O)NC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C22H23N5O2S
